US09108969B2
Step B: Preparation of 2-(7-(4-Chloro-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
To a solution of D,L-cysteine (0.056 g, 0.460 mmol) in TFA (0.9 mL) was added tert-butyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (0.079 g, 0.153 mmol). The reaction was stirred for 2 h and poured into ice water. The resulting precipitate was collected by vacuum filtration to give the title compound as a solid.

reactant | D,L-cysteine | 0.460 mmol, 0.056 g | NC(CS)C(=O)O | C3H7NO2S
reactant | tert-butyl 2-(7-(4-chloro-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.153 mmol, 0.079 g | ClC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C25H25ClF3NO3
solvent | TFA | 0.9 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(7-(4-Chloro-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | ClC1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C21H17ClF3NO3
